US09278931B2
A) N-(4-bromo-2-methylphenyl)benzamide
To a solution of 4-bromo-2-methylaniline (3.55 g) in pyridine (95 mL) was added benzoyl chloride (2.66 mL). The mixture was stirred at room temperature for 1 hr and the solvent was evaporated under reduced pressure. To the residue was added 2N hydrochloric acid. The mixture was extracted with ethyl acetate, and the extract was washed successively with 1N hydrochloric acid, saturated aqueous sodium hydrogen carbonate solution and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The residue was washed with diisopropyl ether to give the title compound (4.35 g).

reactant | 4-bromo-2-methylaniline | 3.55 g | BrC1=CC(=C(N)C=C1)C | C7H8BrN
reactant | benzoyl chloride | 2.66 mL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | pyridine | 95 mL | N1=CC=CC=C1 | C5H5N
product | N-(4-bromo-2-methylphenyl)benzamide | 4.35 g | BrC1=CC(=C(C=C1)NC(C1=CC=CC=C1)=O)C | C14H12BrNO
